US04334062
7-Amino-3-[[4-amino-5-(3-methyl-5-phenyl-1-pyrazolyl)-4H-1,2,4-triazol-3-ylthio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A mixture of 1.36 g. of 7-aminocephalosporanic acid, 1.50 g. of 4-amino-5-(3-methyl-5-phenyl-1-pyrazolyl)-4H-1,2,4-triazole-3-thiol and 0.84 g. of sodium bicarbonate in 40 ml. of pH 6.4 phosphate buffer is stirred and heated at 60° C. for 8 hours. The mixture is cooled to room temperature, filtered and the filtrate is extracted with ethyl acetate. The aqueous portion is acidified to pH 2.5 with 4 N hydrochloric acid. The precipitate is collected by filtration and dried, giving 0.8 g. of the desired product, I.R. 5.60μ (β-lactam carbonyl).

reactant | 7-aminocephalosporanic acid | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 4-amino-5-(3-methyl-5-phenyl-1-pyrazolyl)-4H-1,2,4-triazole-3-thiol | NN1C(=NN=C1N1N=C(C=C1C1=CC=CC=C1)C)S | C12H12N6S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosphate | pH 6.4 | P(=O)([O-])([O-])[O-]
product | 7-Amino-3-[[4-amino-5-(3-methyl-5-phenyl-1-pyrazolyl)-4H-1,2,4-triazol-3-ylthio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC1C2SCC(=C(N2C1=O)C(=O)O)CSC1=NN=C(N1N)N1N=C(C=C1C1=CC=CC=C1)C | C20H20N8O3S2
